US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethylbenzyl)-2-((oxiran-2-ylmethoxy)methyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compounds Q-1 and Q-2)
To a solution of (2S,3R,4R,5S,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (463 mg, 1 mmol) in CH2Cl2 (2 mL) at 0° C., was added mCPBA (350 mg, 2 mmol). The mixture was heated to 40° C. and kept at that temperature overnight. Upon being cooled to room temperature, 10 mL of CH2Cl2 was added to dilute the solution. The solution was then washed with aqueous NaHCO3 and brine prior to drying over Na2SO4. The solvent was removed under reduced pressure and purification of the resulting mixture with preparative TLC gave two isomers with undetermined absolute configurations.

reactant | (2S,3R,4R,5S,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | 1 mmol, 463 mg | C(C=C)OCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO | C25H31ClO6
reactant | mCPBA | 2 mmol, 350 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethylbenzyl)-2-((oxiran-2-ylmethoxy)methyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | ClC1=CC(=C(C=C1CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)COCC1OC1 | C25H31ClO7
